US07144885B2
Preparation of N-[2-(2,4-dichlorobenzoyl)-5,6,7,8-tetrahydronaphtho[2,3-b]furan-3-yl]-acetamide
To a solution of N-acetyl-N-[2-(2,4-dichlorobenzoyl)-5,6,7,8-tetrahydronaphtho[2,3-b]furan-3-yl]-acetamide (40 mg, 0.09 mmol) in anhydrous THF (1.8 mL) was added 2N sodium hydroxide solution (1.8 mL), and the reaction mixture was stirred at 100° C. for 1 h. The reaction was diluted with ethyl acetate, washed with saturated aqueous ammonium chloride solution, water, and brine. The organic layer was then dried over sodium sulfate, filtered, and evaporated under reduced pressure. The crude product was purified on the MPLC (Biotage) eluted with 5% ethyl acetate-hexane to afford 24.5 mg (67.6%) as yellow foam. 1H-NMR (DMSO-d6) δ 10.22 (s, 1H), 7.79 (t, J=1.2 Hz, 1H), 7.62 (s, 1H), 7.58 (d, J=0.9 Hz, 2H), 7.30 (s, 1H), 2.84 to 2.79 (m, 4H), 2.06 (s, 3H), 1.74 to 1.72 (m, 4H); LC-MS (ES MH+=402); Rf=0.68 (25% ethyl acetate-hexane).

reactant | N-acetyl-N-[2-(2,4-dichlorobenzoyl)-5,6,7,8-tetrahydronaphtho[2,3-b]furan-3-yl]-acetamide | 0.09 mmol, 40 mg | C(C)(=O)N(C(C)=O)C=1C2=C(OC1C(C1=C(C=C(C=C1)Cl)Cl)=O)C=C1CCCCC1=C2 | C23H19Cl2NO4
reactant | sodium hydroxide | 2N, 1.8 mL | [OH-].[Na+]
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | THF | 1.8 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-(2,4-dichlorobenzoyl)-5,6,7,8-tetrahydronaphtho[2,3-b]furan-3-yl]-acetamide | ClC1=C(C(=O)C2=C(C3=C(O2)C=C2CCCCC2=C3)NC(C)=O)C=CC(=C1)Cl | C21H17Cl2NO3
